US07741341B2
72.0 mg (0.183 mmol) 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester were dissolved in 7 mL DMF. Sequentially 37.8 mg (0.274 mmol) K2CO3 and 54.6 mg (0.219 mmol) 2-bromo-N-(5-Chloro-pyridin-2-yl-)-acetamide were added and the resulting mixture was stirred for 4 h at 80°. The mixture was diluted with 200 mL toluene and washed with 50 mL of a saturated NaHCO3-solution. The product was not completely soluble in toluene, so ethyl acetate had to be added. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. The residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) to give 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester as a light brown amorphous solid.

reactant | 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.183 mmol, 72.0 mg | COC(=O)C1=CC=CC=2NC(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O | C20H18N4O5
reactant | K2CO3 | 0.274 mmol, 37.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N-(5-Chloro-pyridin-2-yl-)-acetamide | 0.219 mmol, 54.6 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O)CC(NC2=NC=C(C=C2)Cl)=O | C27H23ClN6O6
